US04249936
Preparation of 2-methoxycarbonyl-3-azabicyclo(3.1.0)hex-2-ene
By a method analogous to that of Example 1, this compound was prepared from 2-methoxycarbonyl-3-azabicyclo(3.1.0)hexane. Sodium dissolved in methanol instead of ethanol was used as dehydrohalogenating agent. The desired compound was obtained as a straw-colored liquid in 70% yield. Its identity was confirmed by elemental analysis, and by NMR and IR analyses.

reactant | 2-methoxycarbonyl-3-azabicyclo(3.1.0)hexane | COC(=O)C1C2CC2CN1 | C7H11NO2
reactant | Sodium | [Na] | Na
solvent | methanol | CO | CH4O
product | 2-methoxycarbonyl-3-azabicyclo(3.1.0)hex-2-ene | 70% yield | COC(=O)C=1C2CC2CN1 | C7H9NO2
